US09353066B2
A cloudy solution of 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid (100 mg, 0.222 mmol), methanesulfonamide (24.3 mg, 0.256 mmol), DMAP (5.4 mg, 0.044 mmol), EDC (59.7 mg, 0.311 mmol), and triethylamine (0.043 mL, 0.31 mmol) in DMF (4 mL) was stirred for 14 hours at room temperature. The reaction mixture was purified directly via reverse phase HPLC (CH3CN:H2O with 0.1% TFA) to give 3′-methyl-N-(methylsulfonyl)-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxamide. MS ESI calc'd. for C20H18F3N4O3S [M+H]+ 451, found 451. 1H NMR (500 MHz, DMSO-d6) δ 12.26 (s, 1H), 10.26 (s, 1H), 8.82 (d, J=4.9 Hz, 1H), 8.18 (s, 1H), 7.95 (s, 1H), 7.90 (d, J=7.8 Hz, 1H), 7.87 (d, J=7.9 Hz, 1H), 7.61 (t, J=7.8 Hz, 1H), 7.57 (s, 1H), 7.26 (d, J=5.0 Hz, 1H), 7.24 (s, 1H), 3.39 (s, 3H), 2.38 (s, 3H).

reactant | 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid | 0.222 mmol, 100 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C(=O)O | C19H14F3N3O2
reactant | methanesulfonamide | 0.256 mmol, 24.3 mg | CS(=O)(=O)N | CH5NO2S
reactant | EDC | 0.311 mmol, 59.7 mg
reactant | triethylamine | 0.31 mmol, 0.043 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.044 mmol, 5.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3′-methyl-N-(methylsulfonyl)-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxamide | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C(=O)NS(=O)(=O)C | C20H17F3N4O3S
